### PR TITLE
chore(MonoidAlgebra.ToDirectSum): delete unnecessary simp only 

### PR DESCRIPTION
**Pull request by mattrobball**
This isn't needed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/ToDirectSum.lean [hunk 1]
```diff
@@ -147,9 +147,6 @@ theorem toDirectSum_mul [DecidableEq ι] [AddMonoid ι] [Semiring M] (f g : AddM
   simp only [AddMonoidHom.coe_mk, ZeroHom.coe_mk, toDirectSum_single]
   erw [AddMonoidAlgebra.single_mul_single, AddMonoidHom.coe_mk, ZeroHom.coe_mk,
     AddMonoidAlgebra.toDirectSum_single]
-  simp only [AddMonoidHom.coe_comp, AddMonoidHom.coe_mul, AddMonoidHom.coe_mk, ZeroHom.coe_mk,
-    Function.comp_apply, toDirectSum_single, AddMonoidHom.id_apply, Finsupp.singleAddHom_apply,
-    AddMonoidHom.coe_mulLeft]
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/ToDirectSum.lean:152]: These still improve the goal state, right? I think instead of pruning this `simp only`, we should be fixing the API so that we can eliminate the `erw`.

**Comment by fpvandoorn** [comment]
please mark as `awaiting-review` if it's ready for review

**Comment by grunweg** [comment]
I just looked at this PR: the change as-is doesn't compile any more. Let me mark as awaiting-author then.
awaiting-author
